US04474754
16(b). Preparation of H-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys-Glu-OH
150 Milligrams of Z-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH was dissolved in liquid ammonia previously dried with metallic sodium, then small pieces of metallic sodium were added to the solution under stirring condition until the color of the reaction mixture is changed to blue and kept it for 30 seconds to 1 minute. Further crystals of NH4Cl were added to the reaction mixture, an excess metallic sodium was neutralized, after ammonia was removed completely by distillation at a room temperature, the reaction product was subjected to gel-filtration with Sephadex G-25 gel by using 50%-acetic acid as the eluting solvent, collecting the desired fraction and lyophilizing the desired fraction by adding water after concentration, to obtain 94 mg of the desired product (peptide of the present invention). Hereinafter, this product is referred to as [Peptide G].

reactant | Z-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH | N([C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C80H126N20O30S
solvent | ammonia | N | H3N
product | H-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys-Glu-OH | 94 mg | N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCC(O)=O)C(=O)O | C65H114N20O26
